**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke
* Matchcode:              WE-FC 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  FC  1  2  3  4  PARAMS:
L5  N011  N010  {L3}
R50  N011  N010  {Rs3}
C3  N500  N001  {C1}
R500  4  N500  {R2}
L1  4  N012  {L1}
R51  4  N012  {Rs1}
L3  N012  N011  {L2}
R52  N012  N011  {Rs2}
L6  N015  N014  {L3}
R53  N015  N014  {Rs3}
C4  N501  N013  {C1}
R501  3  N501  {R2}
L2  3  N016  {L1}
R54  3  N016  {Rs1}
L4  N016  N015  {L2}
R55  N016  N015  {Rs2}
L8  N014  N013  {L4}
R56  N014  N013  {Rs4}
L7  N010  N001  {L4}
R57  N010  N001  {Rs4}
L9  N001  N007  {L5}
R58  N001  N007  {Rs5}
C50  N001  N007  {C2}
L10  N013  N022  {L5}
R59  N013  N022  {Rs5}
C51  N013  N022  {C2}
L11  N007  N006  {L6}
R60  N007  N006  {Rs6}
C52  N007  N006  {C3}
L12  N022  N021  {L6}
R61  N022  N021  {Rs6}
C53  N022  N021  {C3}
R1  N002  1  {Rdc}
R2  N004  N002  {dR4}
C1  N003  N002  {dC3}
L17  N008  N002  {dL3}
L18  N017  N018  {dL3}
C2  N008  N018  {ck}
Ropen  N008  N018  1000g
R3  N004  N003  {dR3}
R4  N019  N023  {dR3}
C9  N023  N017  {dC3}
R5  N019  N017  {dR4}
L19  N004  N008  {dL3}
L20  N018  N019  {dL3}
R6  N017  2  {Rdc}
R8  N006  N004  {dR6}
C10  N005  N004  {dC4}
L13  N009  N004  {dL4}
L14  N019  N020  {dL4}
C11  N009  N020  {ck}
R9  N006  N005  {dR5}
R10  N021  N024  {dR5}
C12  N024  N019  {dC4}
R11  N021  N019  {dR6}
L15  N006  N009  {dL4}
L16  N020  N021  {dL4}
K3  L5  L6  1
K2  L3  L4  1
K1  L1  L2  1
K4  L7  L8  1
K5  L9  L10  1
K6  L11  L12  1
K8  L17  L18  L19  L20  0.9999
K7  L13  L14  L15  L16  0.9999
.ends  FC
***********
.subckt ET20H_7448640395_0.82m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.00133660190142394
+  L2=0.00066701705440674
+  L3=0.000693004088894302
+  L4=0.000224826199486956
+  L5=6.65504570380959E-08
+  L6=2.78498066135292E-09
+  C1=2.46181731944311E-12
+  C2=6.73670849014524E-12
+  C3=5.97097127528123E-12
+  RS1=1337.81419587115
+  RS2=3155.91701442969
+  RS3=192.411087825075
+  RS4=5573.70200019057
+  RS5=52.0826799302894
+  RS6=929.380663145605
+  R2=39.6163187388244
+  DL3=0.000000738
+  DC3=0.00000000000205
+  DL4=0.00000000811
+  DC4=0.0000000000000833
+  DR3=0.48
+  DR4=8680
+  DR5=0.58
+  DR6=266
+  Rdc=0.067
+  ck=1.6pF
.ends ET20H_7448640395_0.82m
***********
.subckt ET20H_7448640396_1.8m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000419223341788641
+  L2=0.0000184444809801961
+  L3=0.00122353116043503
+  L4=0.000608286488459203
+  L5=2.63691058688461E-07
+  L6=2.07373482216634E-08
+  C1=2.3907543616794E-12
+  C2=5.90370575995892E-11
+  C3=7.9473024968741E-13
+  RS1=380.450393991046
+  RS2=2692.70730521348
+  RS3=7812.053257593
+  RS4=13618.6906089575
+  RS5=71.696142463382
+  RS6=888.81447808711
+  R2=12.9995362506247
+  DL3=0.000001738
+  DC3=0.00000000000195
+  DL4=0.00000000811
+  DC4=0.0000000000000833
+  DR3=0.48
+  DR4=16680
+  DR5=0.58
+  DR6=266
+  Rdc=0.154
+  ck=2.32pF
.ends ET20H_7448640396_1.8m
***********
.subckt ET20H_7448640397_2.7m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.0016169019162156
+  L2=0.00163541824472393
+  L3=0.000812998902402452
+  L4=0.000555575905230456
+  L5=1.85398834316071E-08
+  L6=1.93742978105865E-07
+  C1=2.84225221668491E-12
+  C2=1.13999338673358E-12
+  C3=1.08665921785653E-14
+  RS1=5034.50230419101
+  RS2=5313.38268635357
+  RS3=5445.06055288674
+  RS4=17228.0372034505
+  RS5=1999.11326525974
+  RS6=53.0747995048
+  R2=161.349314520953
+  DL3=0.000002538
+  DC3=0.00000000000245
+  DL4=0.00000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=26680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.295
+  ck=1.44pF
.ends ET20H_7448640397_2.7m
***********
.subckt ET20H_7448640398_3.3m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.00124489196334796
+  L2=0.00059637669243615
+  L3=0.00180625851181269
+  L4=0.000940503345906996
+  L5=1.85237149375554E-09
+  L6=7.5024967585581E-10
+  C1=2.93998328976033E-12
+  C2=4.49266712649602E-11
+  C3=1.02656554890703E-10
+  RS1=6345.33803822565
+  RS2=2766.32754292941
+  RS3=7035.48808621277
+  RS4=16502.1388324551
+  RS5=362.388245576368
+  RS6=19.7318592643
+  R2=3.594725011606
+  DL3=0.000003238
+  DC3=0.00000000000265
+  DL4=0.000000001411
+  DC4=0.00000000001433
+  DR3=0.48
+  DR4=27680
+  DR5=0.48
+  DR6=39266
+  Rdc=0.562
+  ck=1.2pF
.ends ET20H_7448640398_3.3m
***********
.subckt ET20H_7448640399_3.9m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.00104643349948583
+  L2=0.00111714898557354
+  L3=0.000947609427637273
+  L4=0.00305560903889871
+  L5=7.98303962582749E-09
+  L6=2.29465946382189E-09
+  C1=2.87273581850198E-12
+  C2=1.03979521373402E-11
+  C3=9.70337184704443E-13
+  RS1=2762.37435745242
+  RS2=5472.57186748623
+  RS3=6417.84360895059
+  RS4=21909.735060152
+  RS5=1397.54829863792
+  RS6=6.35510657295
+  R2=6.902676801912
+  DL3=0.000003538
+  DC3=0.00000000000285
+  DL4=0.00000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=45680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.278
+  ck=1.54pF
.ends ET20H_7448640399_3.9m
***********
.subckt ET20H_7448640400_5.6m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.00204643349948583
+  L2=0.00111714898557354
+  L3=0.000947609427637273
+  L4=0.00305560903889871
+  L5=7.98303962582749E-09
+  L6=2.29465946382189E-09
+  C1=2.87273581850198E-12
+  C2=1.03979521373402E-11
+  C3=9.70337184704443E-13
+  RS1=14762.3743574524
+  RS2=5472.57186748623
+  RS3=6417.84360895059
+  RS4=21909.735060152
+  RS5=1397.54829863792
+  RS6=6.35510657295
+  R2=6.902676801912
+  DL3=0.000004638
+  DC3=0.00000000000285
+  DL4=0.000000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=35680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.514
+  ck=1.4pF
.ends ET20H_7448640400_5.6m
***********
.subckt ET20H_7448640401_6.8m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.00404643349948583
+  L2=0.00111714898557354
+  L3=0.000947609427637273
+  L4=0.00305560903889871
+  L5=7.98303962582749E-09
+  L6=2.29465946382189E-09
+  C1=2.87273581850198E-12
+  C2=5.3979521373402E-12
+  C3=9.70337184704443E-13
+  RS1=24762.3743574524
+  RS2=5472.57186748623
+  RS3=6417.84360895059
+  RS4=21909.735060152
+  RS5=1397.54829863792
+  RS6=6.35510657295
+  R2=6.902676801912
+  DL3=0.000005838
+  DC3=0.00000000000285
+  DL4=0.000000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=35680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.604
+  ck=1.4pF
.ends ET20H_7448640401_6.8m
***********
.subckt ET20H_7448640402_10m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.0100464334994858
+  L2=0.00111714898557354
+  L3=0.000947609427637273
+  L4=0.00305560903889871
+  L5=7.98303962582749E-09
+  L6=2.29465946382189E-09
+  C1=2.87273581850198E-12
+  C2=5.3979521373402E-12
+  C3=9.70337184704443E-13
+  RS1=74762.3743574524
+  RS2=5472.57186748623
+  RS3=6417.84360895059
+  RS4=21909.735060152
+  RS5=1397.54829863792
+  RS6=6.35510657295
+  R2=6.902676801912
+  DL3=0.000009238
+  DC3=0.00000000000285
+  DL4=0.000000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=35680
+  DR5=0.58
+  DR6=9266
+  Rdc=1.02
+  ck=2.9pF
.ends ET20H_7448640402_10m
***********
.subckt ET20H_7448640403_18m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.0200464334994858
+  L2=0.00511714898557354
+  L3=0.000947609427637273
+  L4=0.00305560903889871
+  L5=7.98303962582749E-09
+  L6=2.29465946382189E-09
+  C1=2.87273581850198E-12
+  C2=5.3979521373402E-12
+  C3=9.70337184704443E-13
+  RS1=124762.374357452
+  RS2=5472.57186748623
+  RS3=6417.84360895059
+  RS4=21909.735060152
+  RS5=1397.54829863792
+  RS6=6.35510657295
+  R2=6.902676801912
+  DL3=0.000015238
+  DC3=0.00000000000285
+  DL4=0.000000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=81680
+  DR5=0.58
+  DR6=9266
+  Rdc=1.66
+  ck=2.5pF
.ends ET20H_7448640403_18m
***********
.subckt ET20H_7448640404_22m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.0300464334994858
+  L2=0.00311714898557354
+  L3=0.00147609427637273
+  L4=0.00305560903889871
+  L5=9.98303962582749E-09
+  L6=2.29465946382189E-09
+  C1=3.27273581850198E-12
+  C2=5.3979521373402E-12
+  C3=9.70337184704443E-13
+  RS1=154762.374357452
+  RS2=5472.57186748623
+  RS3=6417.84360895059
+  RS4=21909.735060152
+  RS5=397.548298637929
+  RS6=6.35510657295
+  R2=6.902676801912
+  DL3=0.000020238
+  DC3=0.00000000000285
+  DL4=0.000000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=81680
+  DR5=0.58
+  DR6=9266
+  Rdc=2.25
+  ck=2.22pF
.ends ET20H_7448640404_22m
***********
.subckt ET20H_7448640405_33m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.0400464334994858
+  L2=0.00311714898557354
+  L3=0.00147609427637273
+  L4=0.00305560903889871
+  L5=9.98303962582749E-09
+  L6=2.29465946382189E-09
+  C1=2.87273581850198E-12
+  C2=5.3979521373402E-12
+  C3=9.70337184704443E-13
+  RS1=154762.374357452
+  RS2=5472.57186748623
+  RS3=6417.84360895059
+  RS4=21909.735060152
+  RS5=397.548298637929
+  RS6=6.35510657295
+  R2=6.902676801912
+  DL3=0.000027238
+  DC3=0.00000000000285
+  DL4=0.000000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=61680
+  DR5=0.58
+  DR6=9266
+  Rdc=1.67
+  ck=2.77pF
.ends ET20H_7448640405_33m
***********
.subckt UT20V_7448640406_0.82m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000349839836666115
+  L2=0.0000449848865674813
+  L3=0.000729291843546601
+  L4=5.67471514731328E-06
+  L5=2.80321824811854E-09
+  L6=2.08079707052894E-09
+  C1=2.8982109209806E-12
+  C2=3.46709914794984E-11
+  C3=1.00756521123558E-13
+  RS1=827.9893905354
+  RS2=580.507263268679
+  RS3=7922.16754059154
+  RS4=13530.2674514301
+  RS5=166.714388201208
+  RS6=572.241272489226
+  R2=34.2040695486952
+  DL3=0.000000838
+  DC3=0.00000000000265
+  DL4=0.000000000811
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=11680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.0835
+  ck=1.93pF
.ends UT20V_7448640406_0.82m
***********
.subckt UT20V_7448640407_1.2m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.0000703119823707213
+  L2=8.92995056511769E-06
+  L3=0.00136528584770519
+  L4=0.000166116194345672
+  L5=2.13094924434655E-08
+  L6=1.68982192415501E-08
+  C1=3.82714587936407E-12
+  C2=2.8240142937601E-09
+  C3=8.25610019971753E-13
+  RS1=1053.2663013811
+  RS2=563.465266931374
+  RS3=7575.65692823315
+  RS4=4366.27293811896
+  RS5=197.759329542719
+  RS6=948.80036590475
+  R2=1.47015015628146
+  DL3=0.000001438
+  DC3=0.00000000000265
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=11680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.12
+  ck=2.31pF
.ends UT20V_7448640407_1.2m
***********
.subckt UT20V_7448640408_1.8m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000349839836666115
+  L2=0.000849848865674813
+  L3=0.0017292918435466
+  L4=5.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.33463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=91.5793662352201
+  RS2=8542.09260314847
+  RS3=8432.76947949667
+  RS4=84352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000001438
+  DC3=0.00000000000265
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=11680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.162
+  ck=3.6pF
.ends UT20V_7448640408_1.8m
***********
.subckt UT20V_7448640409_2.2m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000149839836666115
+  L2=0.00149848865674813
+  L3=0.0015292918435466
+  L4=5.67471514731328E-06
+  L5=1.69617387749635E-06
+  L6=9.96452624158199E-09
+  C1=3.33463669795708E-12
+  C2=1.87024559806227E-10
+  C3=2.529379663444E-12
+  RS1=291.57936623522
+  RS2=11542.0926031484
+  RS3=8432.76947949667
+  RS4=84352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000002438
+  DC3=0.00000000000265
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=26680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.215
+  ck=2.66pF
.ends UT20V_7448640409_2.2m
***********
.subckt UT20V_7448640410_2.7m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000749839836666115
+  L2=0.000849848865674813
+  L3=0.0027292918435466
+  L4=5.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.73463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=111.57936623522
+  RS2=11542.0926031484
+  RS3=13432.7694794966
+  RS4=84352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000002938
+  DC3=0.00000000000365
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=26680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.189
+  ck=3.37pF
.ends UT20V_7448640410_2.7m
***********
.subckt UT20V_7448640411_3.3m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000949839836666115
+  L2=0.000849848865674813
+  L3=0.0039292918435466
+  L4=5.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.53463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=111.57936623522
+  RS2=19542.0926031484
+  RS3=17432.7694794966
+  RS4=94352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000003198
+  DC3=0.00000000000355
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=26680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.217
+  ck=3.03pF
.ends UT20V_7448640411_3.3m
***********
.subckt UT20V_7448640413_5.6m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000949839836666115
+  L2=0.000849848865674813
+  L3=0.0069292918435466
+  L4=5.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=2.93463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=111.57936623522
+  RS2=29542.0926031484
+  RS3=32432.7694794966
+  RS4=94352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000006198
+  DC3=0.00000000000255
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=36680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.418
+  ck=3.53pF
.ends UT20V_7448640413_5.6m
***********
.subckt UT20V_7448640414_6.8m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000949839836666115
+  L2=0.000849848865674813
+  L3=0.0089292918435466
+  L4=5.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.53463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=111.57936623522
+  RS2=59542.0926031484
+  RS3=48432.7694794966
+  RS4=94352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000007198
+  DC3=0.00000000000315
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=56680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.47
+  ck=2.8pF
.ends UT20V_7448640414_6.8m
***********
.subckt UT20V_7448640415_10m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000449839836666115
+  L2=0.000449848865674813
+  L3=0.0129292918435466
+  L4=5.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.53463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=211.57936623522
+  RS2=69542.0926031484
+  RS3=68432.7694794966
+  RS4=94352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000010198
+  DC3=0.00000000000315
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=56680
+  DR5=0.58
+  DR6=9266
+  Rdc=0.718
+  ck=3.7pF
.ends UT20V_7448640415_10m
***********
.subckt UT20V_7448640416_18m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.000449839836666115
+  L2=0.000449848865674813
+  L3=0.0229292918435466
+  L4=5.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.23463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=411.57936623522
+  RS2=89542.0926031484
+  RS3=118432.769479496
+  RS4=94352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000018198
+  DC3=0.00000000000315
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=56680
+  DR5=0.58
+  DR6=9266
+  Rdc=1.22
+  ck=4.71pF
.ends UT20V_7448640416_18m
***********
.subckt UT20V_7448640417_22m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.0000449839836666115
+  L2=0.0000449848865674813
+  L3=0.0329292918435466
+  L4=9.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.93463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=111.57936623522
+  RS2=159542.092603148
+  RS3=188432.769479496
+  RS4=94352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000023198
+  DC3=0.00000000000405
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=56680
+  DR5=0.58
+  DR6=9266
+  Rdc=1.7
+  ck=3.22pF
.ends UT20V_7448640417_22m
***********
.subckt UT20V_7448640418_33m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=4.49839836666115E-06
+  L2=4.49848865674813E-06
+  L3=0.0529292918435466
+  L4=9.67471514731328E-06
+  L5=6.96173877496358E-07
+  L6=9.96452624158199E-09
+  C1=3.53463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=111.57936623522
+  RS2=159542.092603148
+  RS3=188432.769479496
+  RS4=94352.7577365101
+  RS5=246.529234933992
+  RS6=611.815693524294
+  R2=1.4422510600994
+  DL3=0.000037198
+  DC3=0.00000000000315
+  DL4=0.000000001011
+  DC4=0.00000000000833
+  DR3=0.48
+  DR4=66680
+  DR5=0.58
+  DR6=9266
+  Rdc=2.5
+  ck=3.27pF
.ends UT20V_7448640418_33m
***********
.subckt UT20V_7448640412_3.9m 1 2 3 4
X1  1  2  3  4  FC  PARAMS:
+  L1=0.949839836666115m
+  L2=0.849848865674813m
+  L3=2.5292918435466m
+  L4=2.07471514731328E-06
+  L5=2.96173877496358E-07
+  L6=2.96452624158199E-09
+  C1=6.50463669795708E-12
+  C2=8.70245598062277E-11
+  C3=2.529379663444E-12
+  RS1=111.57936623522
+  RS2=19542.0926031484
+  RS3=17032.7694794966
+  RS4=94352.7577365101
+  RS5=245.529234933992
+  RS6=6.815693524294
+  R2=1.4422510600994
+  DL3=2.4u
+  DC3=7.5p
+  DL4=1.011n
+  DC4=10.33p
+  DR3=0.48
+  DR4=24000
+  DR5=0.58
+  DR6=9266
+  Rdc=0.217
+  ck=3.03pF
.ends UT20V_7448640412_3.9m
***********
